US09212192B2
tert-butyl 4-(4-amino-3-methoxyphenyl)-5,6-dihydropyridine-1(2H)-carboxylate
A mixture of 4-bromo-2-methoxybenzenamine (1.21 g, 6.0 mmol), tert-butyl 4-(3,3,4,4-tetramethylborolan-1-yl)-5,6-dihydropyridine-1(2H)-carboxylate (1.95 g, 6.3 mmol), sodium carbonate (1.91 g, 18 mmol) and 1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (0.22 g, 0.3 mmol) in dioxane (25 mL) and water (5 mL) was degassed with nitrogen and heated to 90° C. for 15 hours. After cooling to ambient temperature, the mixture was filtered, concentrated and purified by flash chromatography eluting with 200:1 dichloromethane:methanol to give the title compound. MS: 305 (M+H+).

reactant | 4-bromo-2-methoxybenzenamine | 6.0 mmol, 1.21 g | BrC1=CC(=C(C=C1)N)OC | C7H8BrNO
reactant | tert-butyl 4-(3,3,4,4-tetramethylborolan-1-yl)-5,6-dihydropyridine-1(2H)-carboxylate | 6.3 mmol, 1.95 g | CC1(CB(CC1(C)C)C1=CCN(CC1)C(=O)OC(C)(C)C)C | C18H32BNO2
reactant | sodium carbonate | 18 mmol, 1.91 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 25 mL | O1CCOCC1 | C4H8O2
solvent | water | 5 mL | O | H2O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | dichloropalladium(II) | 0.3 mmol, 0.22 g | Cl[Pd]Cl
product | tert-butyl 4-(4-amino-3-methoxyphenyl)-5,6-dihydropyridine-1(2H)-carboxylate | NC1=C(C=C(C=C1)C1=CCN(CC1)C(=O)OC(C)(C)C)OC | C17H24N2O3
